US04557979
PREPARATION OF DIHYDROBENZOXAZINE 9
To a reactor are charged 100 parts of methylene dianiline, 200 parts of toluene and 208 parts of p-octyl phenol. The slurry is warmed and agitated to form a uniform solution. An inert nitrogen atmosphere is maintained over the reaction mixture. The temperature of the reaction mixture is adjusted to 60° C. and 131 parts of 50% formalin are added slowly, while the temperature is maintained at 60° to 65° C. After formalin addition is complete the batch is refluxed at 65° C. for 2 hours under reduced pressure. The batch is then heated to atmospheric reflux and the reflux condensate is permitted to separate into an aqueous phase and organic phase in an oil/water separator. The organic phase of the condensate is returned to the reactor and the aqueous phase is removed. When reaction temperature reaches 110° C., the pressure is gradually reduced and toluene is removed from the reaction mixture. The temperature is allowed to rise to 116° C. at 7 kPa pressure. The product can be removed as a tacky semisolid or dissolved in an appropriate solvent. The devolitilized product has a % closed dihydrobenzoxazine ring of 88%, and a calculated equivalent wt. of 374.

reactant | methylene dianiline | C(NC1=CC=CC=C1)NC1=CC=CC=C1 | C13H14N2
reactant | p-octyl phenol | C(CCCCCCC)C1=CC=C(C=C1)O | C14H22O
reactant | formalin | C=O | CH2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | DIHYDROBENZOXAZINE | O1NCCC2=C1C=CC=C2 | C8H9NO
